US08222249B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.74 g, 2.00 mmol) and 3-nitropheny isocyanate (0.33 g, 2.00 mmol) in acetonitrile (20 mL) was added TEA (0.56 mL, 4.00 mmol) at RT under nitrogen. After 12 hrs, the solid was filtered and purified by preparative HPLC (gradient: CH3CN/H2O: 15/85 for 5 min, to 100/0 in 10 min, 100/0 for 5 min). After evaporation of the solvent, the residue was triturated in ether (20 mL) for 1 hr. The product was then isolated by filtration and dried in vacuo to give 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(3-nitrophenyl)urea as a yellow solid (0.34 g, 39% yield).

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 2.00 mmol, 0.74 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3-nitropheny isocyanate | 2.00 mmol, 0.33 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 1-((2-(2,6-dioxopiperidin-3-yl)-1-oxoisoindolin-5-yl)methyl)-3-(3-nitrophenyl)urea | 0.34 g, 39% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C21H19N5O6
